US05158951
Preparation of N-propyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide
A mixture containing 7.2 g (0.0378 mol) of 4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid and 6.2 g (0.044 mol) of triethylamine in 240 ml of chloroform is cooled below -10° C. by ice-salt. A solution of 3.25 ml (0.044 mol) of methyl chloroformate dissolved in 20 ml of chloroform is dropped to the above mixture at -20° C. during 20 minutes. After stirring for 5 minutes, 2.6 g (0.04 mol) of n-propylamine dissolved in 80 ml of chloroform are dropped at -18° C. during 60 minutes. The reaction mixture is stirred for 1 hour at the same temperature, then allowed to stand overnight under cooling by ice. For working up, the reaction mixture is washed 3 times with 70 ml of 5% sodium hydrogen carbonate solution each, then 3 times with 70 ml of water each. The organic phase is dried over anhydrous sodium sulfate, filtered and evaporated to yield 7.1 g (77.5%) of the named compound as light yellow crystals after recrystallization from ethanol, m.p.: 120°-122° C.

reactant | 4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.0378 mol, 7.2 g | O=C1C(=CN=C2N1C=CC=C2)C(=O)O | C9H6N2O3
reactant | triethylamine | 0.044 mol, 6.2 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.044 mol, 3.25 ml | ClC(=O)OC | C2H3ClO2
reactant | n-propylamine | 0.04 mol, 2.6 g | C(CC)N | C3H9N
solvent | chloroform | 240 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | N-propyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide | 7.1 g, 77.5% | C(CC)NC(=O)C1=CN=C2N(C1=O)C=CC=C2 | C12H13N3O2
